US08426447B2
A vial was charged with (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (0.120 g, 0.247 mmol), tetrakis(triphenylphosphine)palladium (2.85 mg, 2.467 μmol), and copper(i) iodide (4.70 mg, 0.025 mmol). The vial was flushed with Ar (g), then DMF (0.987 mL), diisopropylamine (0.692 mL, 4.93 mmol), and ethynylcyclopropane (0.104 mL, 1.233 mmol) were added in sequence to give a yellow solution. The vial was sealed and heated to 70° C. for two hours at which point 8 mg of tetrakis(triphenylphosphine)palladium and 0.1 mL of cyclopropylacetylene were added and the reaction was heated to 100° C. and stirred for two hours. The vial was purged with Ar (g), then DMF (1.039 mL) and 2-(tributylstannyl)pyrazine (0.197 mL, 0.623 mmol) were added in sequence. The vial was sealed and heated to 110° C. for one hour. The mixture was loaded onto a 2-g SCX-2 column and eluted 4× with methanol to remove impurities. The product was then eluted with 2M ammonia in methanol. The filtrate was evaporated, and the residue was purified via column chromatography (RediSep 40 g, gradient elution 0-5% MeOH:DCM) to afford (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyrazin-2-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid.

reactant | (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.247 mmol, 0.120 g | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)N1CCOCC1)(F)F | C19H17F3N4O6S
reactant | diisopropylamine | 4.93 mmol, 0.692 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethynylcyclopropane | 1.233 mmol, 0.104 mL | C(#C)C1CC1 | C5H6
reactant | cyclopropylacetylene | 0.1 mL | C1(CC1)C#C | C5H6
reactant | 2-(tributylstannyl)pyrazine | 0.623 mmol, 0.197 mL | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | DMF | 1.039 mL | CN(C)C=O | C3H7NO
reactant | DMF | 0.987 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 2.467 μmol, 2.85 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(i) iodide | 0.025 mmol, 4.70 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyrazin-2-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C1=NC=CN=C1)(C)C | C24H21N5O2
